US06953793B2
C. 4-(6-Chloro-2-oxo-3,4-dihydro-2H-quinazolin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester.
1,1′-Carbonyldiimidazole (0.51 g, 3.15 mmol) was added to a solution of 4-(2-aminomethyl-4-chloro-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.79 g, 2.25 mmol) in CH3CN (10 mL) over 3 h with stirring at 50° C. The reaction mixture was then cooled to room temperature and stirred for additional 2 h. The reaction mixture was dissolved in CH2Cl2 (100 mL), washed with water (2×10 mL), brine (1×10 mL). The organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (silica, 30-50% EtOAc/hexanes) to obtain 0.46 g (63%) of the desired product. TLC (silica, 50% EtOAc/hexanes): Rf=0.5. MS (electrospray): exact mass calculated for C18H24ClN3O3, 365.15. m/z found, 388.1 [M++Na]. 1H NMR (CDCl3, 400 MHz): 7.18 (dd, J=6.26 Hz, 2.54 Hz, 1H), 7.05 (d, J=2.15 Hz, 1H), 6.94 (d, J=9.00 Hz, 1H), 6.29 (s, 1H), 4.32-4.18 (m, 4H), 4.13-4.02 (m, 1H), 2.88-2.71 (m, 2H), 2.64-2.50 (m, 2H), 1.82-1.73 (m, 2H), 1.49 (s, 9H).

reactant | 1,1′-Carbonyldiimidazole | 3.15 mmol, 0.51 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(2-aminomethyl-4-chloro-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.25 mmol, 0.79 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)Cl)CN | C17H26ClN3O2
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-Chloro-2-oxo-3,4-dihydro-2H-quinazolin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.46 g, 63% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NCC2=CC(=CC=C12)Cl)=O | C18H24ClN3O3
